Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm here because I don't want to be struggling
as much."
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
History of Present Illness: For further details of the history 
and presentation, please see OMR including Dr. ___ 
initial consultation note dated ___ 
___ admission note dated ___. 
. 
Briefly, this is a ___ year old single woman, currently a 
sophomore at ___ with prior history of 
depression, no prior psychiatric hospitalizations or suicide 
attempts who presented to the ED via ___ police due to 
worsening symptoms of depression, suicidal ideation with 
reported hidden knife in her room. 
. 
Upon initial interview, the patient reported that her depression 
had been worsening since ___ of this year but that she had been 
able to manage over the summer, as she had returned home and did 
not have the stressors of school to worry about, although she 
still felt depressed. When she returned to school this semester, 
she reported a worsening of her symptoms that prompted her to
seek care at ___ and she recently began seeing Dr. 
___. Approximately 5 weeks ago she began taking Prozac 
that had been titrated to 60 mg per day and over the past ___ 
weeks she began experiencing a worsening of depression and SI. 
. 
Patient reported passive and active SI, feelings of guilt 
regarding feeling suicidal. Approximately 3 weeks ago she had 
brought a kitchen knife into her room and started writing 
letters to her friends; she later surrendered the knife and 
letters to her roommates before she harmed herself because she 
realized she did not actually want to hurt herself. Of note, 
patient reported
she was recently changed to Cymbalta about a week ago, as she 
was afraid her worsening suicidal ideation was due to the 
Prozac, but reported that since this change she has had 
interrupted sleep, lower mood, poor motivation and concentration 
She states she has missed several classes despite it being 
midterms week, although she noted she has been in communication 
with her professors regarding ___. She also admitted 
to taking another kitchen knife during this past week and hiding 
it in her room; she remembered she had it today and felt guilty 
about this, telling her friend ___ about this incident, who 
brought her to the school PD, who brought her to the ED. 
. 
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints. 
. 
Patient seen with interdisciplinary team. Upon interview, the 
patient, who was a clear and coherent historian, confirmed the 
history provided above. Reported she has been struggling and 
attempting to try and do everything herself with limited 
supports. Reports she is doing "okay," although reported feeling
"out of place on the unit, but I want to be here and get the 
help."  
. 
Ms. ___ confirmed the history initially presented in the ED, 
stating she first suffered from depression in the eight grade 
after becoming friends with a girl "who was emotionally draining 
and lost her father to cancer." The patient stated she related 
to this friend, as she had lost her father to cancer when she 
was ___ years old and "I never talked about the loss of him." Ms. 
___
reported that she struggled with this friendship, "she tended to 
make things about herself... I had difficulty standing up for 
myself." Patient reported that during her senior year in high 
school, her friend ceased being her friend after she found out 
that Ms. ___ had lied about being sexually assaulted by ___ 
during their ___ year. She stated that, "instead of talking 
with me she went and looked at police files." Patient reported 
she had told her friend she had been a victim "because I needed 
her attention so badly... at that time I was obsessed with 
needing her." Following this incident, patient reported she
became depressed and started seeing a therapist for 6 months, 
which she described as "helpful-- I found that I'm not a bad 
person." She then came to ___, where she is 
currently a sophomore. Described her first semester as "okay," 
but that because of depression and anxiety she did not do as 
well as she had hoped. Reported that her second semester was 
better
and her summer session in ___, she did well. Stated that 
currently she is doing "better" overall and is studying 
bio___. Reports she is interested in obtaining an MD, 
but states, "it takes a long time and I want a back up in case I 
change my mind." 
. 
Patient confirmed her depression began worsening in ___ of this 
year and noted fluctuations in mood, stating mornings tend to be 
best and then something will happen in the afternoon to trigger 
her depression, with her most difficult times in the evenings. 
Stated when she is anxious and depressed, she tends to notice a 
burning in her wrists. Of note, patient reported that after 
starting Prozac, her depression seems to have worsened, "I 
haven't had any good days and when it gets bad, I can't remember 
the good moments." Reported she has been struggling with 
feelings of guilt, particularly if she becomes angry with 
someone. Notes that since she has been on Cymbalta for the past 
week, she has
been sleeping ___ hours but with nighttime awakenings. However, 
reported energy, concentration, and appetite were "okay." 
Admitted to intermittent suicidal ideation and stated that after 
becoming upset several weeks ago, she brought a knife into her 
room and hid it in her desk. Stated she did not want to hurt 
herself but felt like she needed to. Denies current SI at this 
time. 
. 
On psychiatric review of systems, patient denied a history of 
manic symptoms including decreased need for sleep, increased 
impulsivity, grandiosity, excessive spending or energy.  Denies 
history of psychotic symptoms including auditory or visual 
hallucinations, paranoia.  Reported significant history of
anxiety possibly with panic attacks.  Reported anxiety surrounds 
worry about disappointing others and saying or doing the wrong 
thing. Denies drug or alcohol abuse. Denies history of excessive 
cleaning of checking. Reports some periods of "binging" but 
denies purging. 
 
Past Medical History:
Past psychiatric history:
-Prior diagnoses: Depression, anxiety 
-Hospitalizations: Denies
-Partial hospitalizations: Denies
-Psychiatrist: Dr. ___ at ___
-Therapist: Not seeing one currently; had one during senior year
of high school x5 months
-Medication trials: Prozac (up to 60 mg, stopped ___ increased 
SI)
-Suicide attempts: Denies
-Self-injurious behavior: Denies
-Harm to others: Denies
-Trauma: Denies
-Access to weapons: Denies
. 
Substance use history:
-Tobacco: Denies
-Alcohol: Denies
-Marijuana: Denies
-Other Drugs: Denies
. 
Past medical history:
- Denies 
. 
MEDICATIONS:
Confirmed by patient:
-Duloxetine 30 mg daily x4 days => 60 mg daily
-Hydroxyzine 25 mg QHS PRN insomnia
. 
Allergies: NKDA 

 
Social History:
Personal and Social History: Patient was born and raised in ___ 
___ as the youngest of ___. Reported that one of her older 
brothers suffers from CP and that she and her siblings are all 
partially deaf, noting, "my life has been shaped around helping 
others." Patient states she does not recall much about her 
father
and that he died from cancer shortly after she turned ___ years 
old. She did state that she recalled him being sick. A year 
following his death, her maternal grandfather also passed. 
Mother never remarried, and patient stated that she did not 
realize growing up without a father was strange, since she lived 
in a community where there were numerous divorced families. 
Stated
that when her friend's father died while she was in the eight 
grade, she "processed the loss and realized all these things I 
had missed." Of note, following her father's death, her brother 
with CP was moved into a group home. Patient has a sister who is 
___ years older and a brother, ___ who is ___ years older and 
attended ___ later graduated and returned to ___ 
to work as a ___ while she was in high school, which 
she described as a good experience. Described her mother as 
"nice," stating she works for the ___ doing ___ for 
foster care children. Also reported her mother "did the best she 
could." Currently is a sophomore at ___ studying ___. 
Currently single, no children. Lives on campus with 5 
suitemates. No legal history. No access to guns 
 
Family History:
Family psychiatric history:
-Psychiatric Diagnoses: Oldest sister with post-partum
depression, other older sister with depression and anxiety,
mother with anxiety
-___ Use Disorders: Denies
-Suicide Attempts/Completed Suicides: Denies

 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:

VITAL SIGNS:
98.8 PO; 117/86; 100; 18; 99% RA

General: no acute distress, appears stated age
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 4 to 3mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education
-Calculations: 7 quarters = "$1.75"
-Abstraction: not formally tested
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: ___ year old woman appearing stated age, well
groomed, wearing hospital gown, in no apparent distress
-Behavior: Sitting up in bed, appropriate eye contact, no
psychomotor agitation or retardation
-Attitude: Cooperative, engaged, friendly
-Mood: "Relieved"
-Affect: Mood-congruent, full range, appropriate to situation,
borderline tearful at times
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Fair
____________________________________________

PHYSICAL EXAMINATION ON DISCHARGE:
Condition: VS: 
T: 98.8 BP: 126/88 HR: 95 RR: 17 SpO2: 98%RA

Mental Status Exam:
A/B: Appears stated age, dressed casually, good hygiene and
grooming, calm, cooperative with interview, excellent eye
contact, no psychomotor agitation or retardation noted
S: Normal rate, volume, prosody
M: "Good."
A: Slightly anxious, euthymic, full range, appropriate
TC: See above
TP: Linear, goal and future oriented
C: Awake, alert and oriented ×3
I/J: Fair-fair 

 
Pertinent Results:
___ 12:17AM   WBC-7.7 RBC-4.25 HGB-13.0 HCT-37.8 MCV-89 
MCH-30.6 MCHC-34.4 RDW-12.1 RDWSD-39.3
___ 12:17AM   NEUTS-68.1 ___ MONOS-6.8 EOS-1.0 
BASOS-0.9 IM ___ AbsNeut-5.23 AbsLymp-1.75 AbsMono-0.52 
AbsEos-0.08 AbsBaso-0.07
___ 12:17AM   GLUCOSE-96 UREA N-13 CREAT-0.7 SODIUM-138 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-22 ANION GAP-15
___ 12:17AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:42AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:42AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100* 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:42AM URINE  RBC-<1 WBC-1 BACTERIA-FEW* YEAST-NONE 
EPI-1
___ 12:42AM URINE  UCG-NEGATIVE
 
Brief Hospital Course:
This is a ___ year old single woman, currently a sophomore at 
___ with prior history of depression, no 
prior psychiatric hospitalizations or suicide
attempts who presented to the ED via ___ police due to 
worsening symptoms of depression, suicidal ideation with 
reported hidden knife in her room. 
. 
Upon interview, patient reports long-standing history of 
depression with periods of low mood, mood swings, significant 
feelings of guilt, suicidal ideation with both passive and 
active SI, feelings of guilt, and periods of feeling 
overwhelmed, disrupted sleep and concentration. Mental status 
examination is notable for a young woman dressed casually, who 
is calm and cooperative with depressed mood and intermittently 
dysphoric affect, thought process is notably linear, goal and 
future
oriented.
. 
Diagnostically, patient likely meets criteria for a major 
depressive episode, recurrent, severe, without psychotic 
features. However, given her young age, and possible activating 
symptoms while on an antidepressant, I would keep BPAD on the
differential, although she is clearly not manic on my 
examination. In addition, given somewhat limited coping skills, 
I would also place emerging character pathology on the 
differential and believe that psychotherapy will play an 
important role in her treatment. Of note, patient denies a 
history of drug or alcohol use and her tox screen was negative-- 
I do not believe that substance use is currently contributing to 
her presentation. Furthermore, given her young age and good 
health, an underlying medical condition would be unlikely to be 
contributing to her
current presentation.
. 
#. Legal/Safety: On admission, Ms. ___ signed a conditional 
voluntary agreement (Section 10 & 11), which was accepted. She 
maintained her safety throughout her hospitalization on 15 
minute checks and did not require physical or chemical 
restraints. 
.
#. MDD: recurrent, severe, without psychotic features: 
- Patient was compliant in attending groups and maintained 
excellent behavioral control in the milieu. She was compliant in 
meeting with her treatment team and participated appropriately 
in her care. 
- Discussed the risks and benefits of continuing the Cymbalta, 
which she was amenable to, denying symptoms of activation on my 
examination and stating she was tolerating it well. 
- Given history of mood swings and lability, we discussed the 
risks and benefits of Lamictal, which she was amenable to. This 
was started at 25 mg po qd, which she tolerated well with no 
complaints of side effects. 
- For periods of anxiety, we discussed the risks and benefits of 
Ativan 
- With the patient's permission, we held a family meeting with 
her mother, who was supportive of Ms. ___ care. Ms. ___ 
reported she felt supported by her family and in the setting of 
the stabilizing environment of the milieu and increased 
outpatient supports, she stated her mood had improved with 
consistent denial of suicidal ideation or thoughts of self harm. 
Reported good sleep and appetite during her hospitalization and 
was able to engage in safety planning, stating if she felt urges 
to harm herself she would call student health or a family 
member. 
- We did discuss the risks and benefits of Ativan, which was 
started 0.5 mg po bid. She tolerated this well with no 
complaints of side effects and without excessive sedation. 
- Vistaril was continued at 25 mg po prn insomnia and anxiety 
without complaints of side effects. 
- Of note, we also discussed the risks and benefits of taking a 
leave of absence from school and the patient expressed a strong 
preference to return to classes. She also declined an IOP, 
stating she would like to concentrate on her school work at this 
time. 
- On day of discharge discharge, Ms. ___ reported she doing 
better, and that she felt more supported by her family and more 
reassured since her mother is now with her. Reported good sleep, 
energy, and concentration, along with good appetite. Denied 
current suicidal ideation or thoughts of self-harm. Stated she 
is tolerating medication well with no side effects. Denied 
visual or auditory hallucinations. On mental status exam, 
patient's affect was slightly anxious, euthymic, full range, 
congruent with "good" mood. Thought content was linear, goal and 
future oriented. Insight and judgmenet continued to be fair. 

#. Medical: no acute medical issues during this admission 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DULoxetine 60 mg PO DAILY 
2. HydrOXYzine 25 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  LamoTRIgine 25 mg PO DAILY 
Your psychiatrist will increase you daily dose of lamotrigine to 
50mg at your appointment, on ___. 
RX *lamotrigine 25 mg 1 tablet(s) by mouth once a day Disp #*5 
Tablet Refills:*0 
2.  LORazepam 0.5 mg PO BID:PRN anxiety 
RX *lorazepam 0.5 mg 1 tab by mouth twice a day Disp #*14 Tablet 
Refills:*0 
3.  DULoxetine 60 mg PO DAILY 
RX *duloxetine 60 mg 1 capsule(s) by mouth once a day Disp #*7 
Capsule Refills:*0 
4.  HydrOXYzine 25 mg PO QHS:PRN insomnia 
RX *hydroxyzine HCl 25 mg 1 tab by mouth at bedtime Disp #*7 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, recurrent, severe, without psychotic 
features
Generalized Anxiety Disorder 

 
Discharge Condition:
VS: 
T: 98.8 BP: 126/88 HR: 95 RR: 17 SpO2: 98%RA

Mental Status Exam:
A/B: Appears stated age, dressed casually, good hygiene and
grooming, calm, cooperative with interview, excellent eye
contact, no psychomotor agitation or retardation noted
S: Normal rate, volume, prosody
M: 'Good.'
A: Slightly anxious, euthymic, full range, appropriate
TC: See above
TP: Linear, goal and future oriented
C: Awake, alert and oriented ×3
I/J: Fair-fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___